US04329281
rac.4-[4-[2-(Acetylamino)propyl]phenyl]-4-oxobutanoic acid
In a one l., three necked, creased flask provided with a stirrer, thermometer, condenser topped with a drying tube and a short length of Gooch tubing connected to a small Erlenmeyer flask was placed 18.7 g (0.106 moles) of N-(alpha-methylphenethyl) acetamide, 15.9 g (0.159 moles) of succinic anhydride and 500 ml of dry methylene chloride. The flask and contents were cooled to 0°-5°, and from the Erlenmeyer flask through the Gooch tubing, 55.5 g (0.424 moles) of anhydrous aluminum chloride was added in small portions over a period of approximately 0.5 hour. A sharp exotherm occurred after each of the first additions, but the temperature was not allowed to exceed 8°. During the addition, the succinic anhydride slowly dissolved and gradually a grayish green gum was deposited. After five hours at 0°-5°, the cooling bath was removed, and the stirred mixture allowed to warm to room temperature (19°-22°), then stirred for another twenty-four hours. At the end of this time, the reaction mixture consisted of a reddish orange gum and a pale-colored solvent. The mixture was cooled in an ice bath, and with vigorous stirring 200 ml of 3 N hydrochloric acid added at 20°. The mixture was stirred until the color of the viscous red gum became grayish white. The stirrer was then stopped, the layers allowed to separate, and the lower methylene chloride layer removed by suction from the reaction vessel. Another 300 ml of methylene chloride was added to the flask, the contents stirred for five minutes, then allowed to settle and the lower layer drawn off as before.

reactant | N-(alpha-methylphenethyl) acetamide | 0.106 moles, 18.7 g | CC(CC1=CC=CC=C1)NC(C)=O | C11H15NO
reactant | succinic anhydride | 0.159 moles, 15.9 g | C1(CCC(=O)O1)=O | C4H4O3
reactant | aluminum chloride | 0.424 moles, 55.5 g | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | methylene chloride | 500 ml | C(Cl)Cl | CH2Cl2
product | 4-[4-[2-(Acetylamino)propyl]phenyl]-4-oxobutanoic acid | C(C)(=O)NC(CC1=CC=C(C=C1)C(CCC(=O)O)=O)C | C15H19NO4
